* === A5: Ring Oscillator 5 stages - 45nm LP ===
.include 45nm_LP.pm
.param VDDv = 1.1
.param Lmin = 45n
.param Wn = 4*Lmin
.param beta = 2.5
.param N = 5

.subckt INV in out vdd
MN out in 0 0 nmos L={Lmin} W={Wn}
MP out in vdd vdd pmos L={Lmin} W={beta*Wn}
.ends

V1 vdd 0 {VDDv}
X1 n1 n2 vdd INV
X2 n2 n3 vdd INV
X3 n3 n4 vdd INV
X4 n4 n5 vdd INV
X5 n5 n1 vdd INV

.ic V(n1)=0
.tran 0 20n 5n 0.5p

.meas tran Tosc TRIG V(n1) VAL={VDDv/2} RISE=2 TARG V(n1) VAL={VDDv/2} RISE=3
.meas tran fosc PARAM 1/Tosc
.meas tran tpd PARAM Tosc/(2*N)
.meas tran Iavg AVG I(V1)
.end
